US06472386B1
Synthesis of N-(3,4,5-Trimethoxybenzoyl)-L-serine Methyl Ester
O-tert-Butyldimethylsilyl-N-(3,4,5-trimethoxy-benzoyl)-L-serine methyl ester (15.91 g) was dissolved in THF (70 mL), and to the solution a THF solution (55.82 mL) of 1.0 M tetrabutylammonium fluoride was added at 0° C., and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resultant crude crystals were then recrystallized from methanol-ether-hexane to obtain the title compound.

reactant | O-tert-Butyldimethylsilyl-N-(3,4,5-trimethoxy-benzoyl)-L-serine methyl ester | 15.91 g | COC([C@@H](NC(C1=CC(=C(C(=C1)OC)OC)OC)=O)CO[Si](C)(C)C(C)(C)C)=O | C20H33NO7Si
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 55.82 mL | C1CCOC1 | C4H8O
product | N-(3,4,5-Trimethoxybenzoyl)-L-serine Methyl Ester | COC([C@@H](NC(C1=CC(=C(C(=C1)OC)OC)OC)=O)CO)=O | C14H19NO7
